US04377522
From 10 g (0.022 mol) of 5-(o-chlorophenyl)-1-(2-diethylaminoethyl)-1,3-dihydro-3,3-dimethyl-7-nitro-2H-1,4-benzodiazepin-2-one there is obtained, in analogy to the details in Example 2, 7-amino-5-(o-chlorophenyl)-1-(2-diethylaminoethyl)-1,3-dihydro-3,3-dimethyl-2H-1,4-benzodiazepin-2-one of melting point 70° (ethanol/water).

reactant | 7-amino-5-(o-chlorophenyl)-1-(2-diethylaminoethyl)-1,3-dihydro-3,3-dimethyl-2H-1,4-benzodiazepin-2-one | NC=1C=CC2=C(C(=NC(C(N2CCN(CC)CC)=O)(C)C)C2=C(C=CC=C2)Cl)C1 | C23H29ClN4O
reactant | ethanol water | C(C)O.O
product | 5-(o-chlorophenyl)-1-(2-diethylaminoethyl)-1,3-dihydro-3,3-dimethyl-7-nitro-2H-1,4-benzodiazepin-2-one | 0.022 mol, 10 g | ClC1=C(C=CC=C1)C1=NC(C(N(C2=C1C=C(C=C2)[N+](=O)[O-])CCN(CC)CC)=O)(C)C | C23H27ClN4O3
